US07368578B2
To a mixture of ethyl (4-{4-[({5-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]isoxazol-3-yl}oxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate (193 mg), tetrahydrofuran (3 mL) and ethanol (3 mL) was added 1N aqueous sodium hydroxide solution (0.9 mL), and the mixture was stirred at 50° C. for 1 hr. To the reaction mixture were added 1N hydrochloric acid (0.9 mL) and water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from ethyl acetate-diethyl ether gave (4-{4-[({5-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]isoxazol-3-yl}oxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetic acid as colorless prism crystals (112 mg, yield 61%). melting point: 156-158° C.

reactant | ethyl (4-{4-[({5-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]isoxazol-3-yl}oxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate | 193 mg | C(C)C=1SC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=NO1)OCC=1N=C(OC1C)C1=CC=C(C=C1)CC(=O)OCC | C35H33N5O6S
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 0.9 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 0.9 mL | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (4-{4-[({5-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]isoxazol-3-yl}oxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetic acid | C(C)C=1SC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=NO1)OCC=1N=C(OC1C)C1=CC=C(C=C1)CC(=O)O | C33H29N5O6S
